US06982278B2
2-{2-Benzyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid
A solution of 2-{2-benzyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester (1.15 g, 2.30 mmol) in THF (15 mL) and MeOH (30 mL) was treated with 2.5N aqueous NaOH (10 mL). The solution was heated at 55° C. for 2 h, cooled to ambient temperature, and concentrated in vacuo. The residue was acidified with 5N aqueous HCl (5 mL) and partitioned between EtOAc (125 mL) and H2O (25 mL). The organic layer was washed with brine (50 mL), dried (Na2SO4), and concentrated to a colorless oil (1.1 g, 100%): 1H NMR (400 MHz, CDCl3) δ 7.97 (dd, 2H, J=7.6, 2.2 Hz), 7.44-7.40 (m, 3H), 7.27-7.15 (m, 5H), 6.77 (d, 1H, J=8.8 Hz), 6.69 (d, 1H, J=2.9 Hz), 6.62 (dd, 1H, J=8.8, 2.9 Hz), 4.12 (t, 2H, J=6.4 Hz), 3.93 (s, 2H), 2.96 (t, 2H, J=6.6 Hz), 2.35 (s, 3H), 1.45 (s, 6H); MS (ES) m/e 472 [M+1].

reactant | 2-{2-benzyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester | 2.30 mmol, 1.15 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C31H33NO5
reactant | NaOH | 2.5N, 10 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | MeOH | 30 mL | CO | CH4O
product | 2-{2-Benzyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid | C(C1=CC=CC=C1)C1=C(OC(C(=O)O)(C)C)C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C29H29NO5
